US04267193
Combine N-(2-hydroxyethyl)-2,6-dimethylaniline (49.5 g, 0.30 mol) with the hexafluoroacetone sesquihydrate (135 g, 0.70 mol) and 1.0 g p-toluenesulfonic acid. Reflux 16 hours, allow to cool, and pour onto water. Add Na2CO3 to pH 10. Filter the solid, dissolve in ether, dry and concentrate. Recrystallize from ether-hexane to give solid, m.p. 110°-113° C., N-(2-hydroxyethyl)-2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline.

reactant | N-(2-hydroxyethyl)-2,6-dimethylaniline | 0.30 mol, 49.5 g | OCCNC1=C(C=CC=C1C)C | C10H15NO
reactant | hexafluoroacetone sesquihydrate | 0.70 mol, 135 g | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | p-toluenesulfonic acid | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | N-(2-hydroxyethyl)-2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline | OCCNC1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)O)C | C13H15F6NO2
